US08222274B2
A 501 mg portion of benzyl 5-[3-(dimethylamino)propyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate was dissolved in a mixed solvent of 1 ml ethanol and 5 ml tetrahydrofuran, and 119 mg of 10% palladium-activated carbon was added, followed by stirring at room temperature for 15 hours under an atmosphere of hydrogen. The reaction liquid was filtered through celite, and the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (methanol:chloroform=10:90-15:85-20:80), to obtain 342 mg of 5-[3-(dimethylamino)propyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid as a colorless solid.

reactant | benzyl 5-[3-(dimethylamino)propyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate | CN(CCCC1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC1=CC=CC=C1)C | C26H31FN2O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium-activated carbon | 119 mg | [Pd] | Pd
product | 5-[3-(dimethylamino)propyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid | 342 mg | CN(CCCC1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)O)C | C19H25FN2O2
